US06670364B2
(4-Chloro-1,3-dimethylpyrazolo[5,4-b]pyridin-5-yl )-N-({[3-(1-methylethoxy)phenyl]amino}carbonyl)carboxamide (40 mg) was dissolved in tetrahydrofuran (5.0 mL), ethyl piperidine-4-carboxylate (160 mg) was added, and the mixture was stirred at room temperature for 5 hrs. The solvent was evaporated under reduced pressure, the residue was suspended in water (10 mL), the resulting solid was filtered, washed with water, and dried under high vacuum to give ethyl 1-{1,3-dimethyl-5-[N-({[3-(1-methylethoxy)phenyl]amino}carbonyl)carbamoyl]pyrazolo[5,4-b]pyridin-4-yl}piperidine-4-carboxylate as a white powder.

reactant | (4-Chloro-1,3-dimethylpyrazolo[5,4-b]pyridin-5-yl )-N-({[3-(1-methylethoxy)phenyl]amino}carbonyl)carboxamide | 40 mg | ClC1=C2C(=NC=C1C(=O)NC(=O)NC1=CC(=CC=C1)OC(C)C)N(N=C2C)C | C19H20ClN5O3
reactant | ethyl piperidine-4-carboxylate | 160 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | ethyl 1-{1,3-dimethyl-5-[N-({[3-(1-methylethoxy)phenyl]amino}carbonyl)carbamoyl]pyrazolo[5,4-b]pyridin-4-yl}piperidine-4-carboxylate | CN1N=C(C=2C1=NC=C(C2N2CCC(CC2)C(=O)OCC)C(NC(=O)NC2=CC(=CC=C2)OC(C)C)=O)C | C27H34N6O5
